US09079888B2
Step (ii): Preparation of 1-Cyclobutyl-4-(4-nitrophenoxy)piperidine
To a stirred solution of sodium hydride (24.76 g, 60% in mineral oil, 0.619 moles) in dimethylformamide (100 mL) was added 1-cyclobutyl-4-piperidinol (80 g, 0.516 moles, obtained in the above step) in dimethylformamide (300 mL) at 10° C. under a nitrogen atmosphere. The mass was stirred for 1 hour. A solution of 4-fluoronitrobenzene (87.3 g, 0.619 moles) in dimethylformamide (300 mL) was added drop wise to the above reaction mass at room temperature. After completion of reaction, the mass was quenched on to chilled water (2 L) and stirred for 1 hour. The obtained solids were separated and dissolved in ethyl acetate (1 L). The resulting ethyl acetate layer was washed with water, dried over sodium sulfate and concentrated under vacuum. The residue, thus obtained, was purified by flash chromatography (methanol:chloroform, 2:8) to afford the title compound 99.7 g (Yield: 70%).

reactant | sodium hydride | 0.619 moles, 24.76 g | [H-].[Na+]
reactant | 1-cyclobutyl-4-piperidinol | C1(CCC1)N1CCC(CC1)O | C9H17NO
reactant | 4-fluoronitrobenzene | 0.619 moles, 87.3 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 1-Cyclobutyl-4-(4-nitrophenoxy)piperidine | 99.7 g, Yield: 70% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H20N2O3
